US05945425
To a mixture of 29.0 g (0.16 mole) of methyl-4-amino-2-methoxybenzoate, 0.5 g of 4-dimethylaminopyridine, and 16.0 gm (0.16 mole) of triethylamine in 500 ml of dichloromethane was added in batches 22 ml (ca. 0.23 mole) of acetic acid. After two hours the reaction mixture was neutralized with sodium bicarbonate (in solution and as a solid). The organic phase was washed successively with aqueous sodium bicarbonate. The organic phase was washed successively with aqueous sodium bicarbonate and brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. Recrystallization from toluene gave 30 g of methyl-4-acetamido-2-methoxybenzoate. To 100 ml of fuming nitric acid, stirred at -40° C., was slowly added 22.3 g (0.10 mole) of the acetylated intermediate. After about twenty minutes the mixture was warmed to 0° C. and stirred for another twenty minutes. The mixture was poured onto one liter of ice and the resultant precipitate was collected. Recrystallization from toluene/ethanol gave 14.2 g of the nitrated and deacetylated compound, methyl-4-amino-2-methoxy-5-nitrobenzoate. (Under similar conditions in which the acetyl group is not removed, saponification with methanolic sodium hydroxide gives the same product.) Hydrogenation of the nitro intermediate in tetrahydrofuran using Raney nickel as catalyst gave methyl-4,5-diamino-2-methoxybenzoate. A mixture of 4.83 g (24.6 mMol) of the diamine and 7.08 g (49.2 mMol) of potassium ethylxanthate was heated at reflux under argon in 40 ml of water. The resultant product mixture was chromatographed on silica gel to give 1.5 g of methyl-2-mercapto-5-methoxy-1H-benzimidazole-6-carboxylate. (Analysis. Calc'd. for C10H10N2O3S: C, 50.41; H, 4.23; N, 11.76; S, 13.46. Found: C, 50.30; H, 4.19; N, 11.71; S, 13.12.) The title compound was then prepared by the method of Example 1 using 1.19 g (5.0 mMol) of methyl-2-mercapto-5-methoxy-1H-benzimidazole-6-carboxylate instead of 2-mercaptobenzimidazole and 0.97 g (5.5 mMol)of 2-(chloromethyl)aniline hydrochloride instead of 2-(chloromethyl)-N,N-dimethylaniline. Anal. Calc'd. for C17H17N3O3S*2HCl: C, 49.05; H,4.60; N, 10.09; S, 7.70; Cl, 17.03. Found: C, 49.37; H, 4.77; N, 9.72; S, 7.43; Cl, 16.77.

reactant | methyl-4-amino-2-methoxybenzoate | 0.16 mole, 29.0 g | COC(C1=C(C=C(C=C1)N)OC)=O | C9H11NO3
reactant | triethylamine | 0.16 mole, 16.0 gm | C(C)N(CC)CC | C6H15N
reactant | acetic acid | ca. 0.23 mole, 22 ml | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | 4-dimethylaminopyridine | 0.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | methyl-4-acetamido-2-methoxybenzoate | 30 g | COC(C1=C(C=C(C=C1)NC(C)=O)OC)=O | C11H13NO4
